US07678801B2
2b) N-(cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-7-oxo-2-(4-piperidinylamino)-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide
To a solution of 1,1-dimethylethyl 4-{[4-(5-{[(cyclopropylmethyl)-amino]carbonyl}-2-methylphenyl)-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}-1-piperidinecarboxylate in THF (2 mL) was added TFA (3.0 mL). The reaction mixture was stirred for about 12 h and concentrated. The residue was mixed with H2O (5.0 mL) and EtOAc (20.0 mL) and the resultant mixture was basified with 2.5 N NaOH aqueous (hereinafter “aq”) solution. The organic layer was separated and the aqueous layer was extracted with EtOAc (3×15 mL). The combined organic phases were washed with saturated aq. NaCl, dried over Na2SO4, filtered, and concentrated. Purification via a CombiFlash system (DCM:MeOH=10:1) then afforded the title compound: LC-MS m/z 545 (M+H)+, 1.65 min (ret. time).

reactant | 1,1-dimethylethyl 4-{[4-(5-{[(cyclopropylmethyl)-amino]carbonyl}-2-methylphenyl)-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}-1-piperidinecarboxylate | C1(CC1)CNC(=O)C=1C=CC(=C(C1)C=1C2=C(N=C(N1)NC1CCN(CC1)C(=O)OC(C)(C)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C | C35H38F2N6O4
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-7-oxo-2-(4-piperidinylamino)-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide | C1(CC1)CNC(C1=CC(=C(C=C1)C)C=1C2=C(N=C(N1)NC1CCNCC1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)=O | C30H30F2N6O2
